US08557830B2
Preparation of N5-(2-chloro-5-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyrimidin-4-yl)-6-methyl-N1-(2-methyl-5-(trifluoromethyl)phenyl)isoquinoline-1,5-diamine
A mixture of 4-(2,4-dichloropyrimidin-5-yl)-7H-pyrrolo[2,3-d]pyrimidine (89 mg, 335 μmol) and 6-methyl-N1-(2-methyl-5-(trifluoromethyl)phenyl)isoquinoline-1,5-diamine (111 mg, 335 μmol) in DMSO (2 mL) was treated with DIPEA (0.3 mL). The mixture was heated to 70° C. in an oil bath for 2 days. Additional quantities of 4-(2,4-dichloropyrimidin-5-yl)-7H-pyrrolo[2,3-d]pyrimidine (3×20 mg) were added during the course of the reaction. The reaction mixture was cooled to rt and poured onto 50 g of ice with 20 mL of NaHCO3. The resulting suspension was extracted with EtOAc (3×50 mL). The EtOAc solution was washed with brine then dried over Na2SO4 and concentrated. The residue was purified via prep LCMS on silica [4% 1M NH3-MeOH in DCM-EtOAc (5-1)]. The residue was further purified by trituation in MeOH to give the title compound as a light yellow solid. MS (ESI, pos. ion) m/z: 561.2 [M+H]+

reactant | 4-(2,4-dichloropyrimidin-5-yl)-7H-pyrrolo[2,3-d]pyrimidine | 335 μmol, 89 mg | ClC1=NC=C(C(=N1)Cl)C=1C2=C(N=CN1)NC=C2 | C10H5Cl2N5
reactant | 6-methyl-N1-(2-methyl-5-(trifluoromethyl)phenyl)isoquinoline-1,5-diamine | 335 μmol, 111 mg | CC1=C(C=2C=CN=C(C2C=C1)NC1=C(C=CC(=C1)C(F)(F)F)C)N | C18H16F3N3
reactant | DIPEA | 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(2,4-dichloropyrimidin-5-yl)-7H-pyrrolo[2,3-d]pyrimidine | 20 mg | ClC1=NC=C(C(=N1)Cl)C=1C2=C(N=CN1)NC=C2 | C10H5Cl2N5
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | N5-(2-chloro-5-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyrimidin-4-yl)-6-methyl-N1-(2-methyl-5-(trifluoromethyl)phenyl)isoquinoline-1,5-diamine | ClC1=NC=C(C(=N1)NC=1C=2C=CN=C(C2C=CC1C)NC1=C(C=CC(=C1)C(F)(F)F)C)C=1C2=C(N=CN1)NC=C2 | C28H20ClF3N8
